US07651687B2
Methyl trans-4-(2-amino-4-oxo-3,4-dihydroimidazo [5,1-f][1,2,4]triazin-7-yl)cyclohexanecarboxylate
A solution of methyl trans-4-{[(3-amino-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)methyl]carbamoyl}cyclohexanecarboxylate (2.00 g, 0.00646 mol) in 1,2-dichloroethane (130 mL) was charged with POCl3 (4.2 mL, 0.045 mol) and heated to reflux for 3 h. The reaction mixture was concentrated in vacuo then partitioned between EtOAc and sat. NaHCO3 and separated. The aqueous was re-extracted with EtOAc (3×) and the combined organic fractions were dried over Na2SO4, filtered, and concentrated in vacuo resulting in 1.43 g, (76% yield) of the title compound as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.43 (q, J=11.79 Hz, 2H), 1.61 (q, J=12.55 Hz, 2H), 1.85-2.11 (m, 4H), 2.38 (t, J=11.87 Hz, 1H), 2.98 (t, J=11.75 Hz, 1H), 3.61 (s, 3 H), 6.17 (br. s., 2 H), 7.49 (s, 1H) and 10.90 (br. s., 1H); MS (ES+): m/z 292.25 [MH+].

reactant | methyl trans-4-{[(3-amino-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)methyl]carbamoyl}cyclohexanecarboxylate | 0.00646 mol, 2.00 g | NC1=NN=C(C(N1)=O)CNC(=O)[C@@H]1CC[C@H](CC1)C(=O)OC | C13H19N5O4
reactant | POCl3 | 0.045 mol, 4.2 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | 1,2-dichloroethane | 130 mL | ClCCCl | C2H4Cl2
product | Methyl trans-4-(2-amino-4-oxo-3,4-dihydroimidazo [5,1-f][1,2,4]triazin-7-yl)cyclohexanecarboxylate | 76% yield | NC1=NN2C(C(N1)=O)=CN=C2[C@@H]2CC[C@H](CC2)C(=O)OC | C13H17N5O3
